US04782071
Preparation of N,N,N'-triphenyl-N'-4-pyridinylurea
A solution of 8.51 g (0.05 mol) of N-phenyl-4-pyridinamine in 400 ml of chloroform is mixed with 11.5 g (0.11 mol) of triethylamine. To this mixture is added, dropwise with stirring, a solution of 11.6 G (0.05 mol) of diphenylcarbamic chloride in chloroform.

reactant | N-phenyl-4-pyridinamine | 0.05 mol, 8.51 g | C1(=CC=CC=C1)NC1=CC=NC=C1 | C11H10N2
reactant | triethylamine | 0.11 mol, 11.5 g | C(C)N(CC)CC | C6H15N
reactant | diphenylcarbamic chloride | 0.05 mol | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N,N'-triphenyl-N'-4-pyridinylurea | C1(=CC=CC=C1)N(C(=O)N(C1=CC=NC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N3O
